US08426447B2
A vial was charged with (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (380 mg, 1.091 mmol), potassium carbonate (754 mg, 5.46 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (688 mg, 3.27 mmol), pd(ph3p)4 (126 mg, 0.109 mmol), DMF (5457 μL), and water (2.5 mL). The vial was sealed, placed in 80° C. and heated overnight. The mixture was diluted with water (35 mL) and extracted with EtOAc (3×15 mL). The combined organic extract was dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 80-g Redi-Sep column, eluting with 0-100% of a 90:10:1 mix of DCM/MeOH/NH4OH in DCM to give (S)-2′-amino-3-(3,6-dihydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol as an orange solid.

reactant | (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 1.091 mmol, 380 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | potassium carbonate | 5.46 mmol, 754 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.27 mmol, 688 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | DMF | 5457 μL | CN(C)C=O | C3H7NO
solvent | water | 35 mL | O | H2O
solvent | water | 2.5 mL | O | H2O
product | (S)-2′-amino-3-(3,6-dihydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C=1CCOCC1)O | C19H17N3O4
